US08710100B2
2-Methoxy-3-(4-nitrophenyl)acrylic acid (6.7 g, 30 mmol) was taken up in methanol (700 ml) and THF (300 ml) and 10% Pd on C (wet basis) (0.67 g) was added. The mixture was hydrogenated at 45 psi for 43 mins, followed by repeated refills to 45-48 psi every hour for 3 hr and finally 48 psi for 18 hr. The resulting suspension was filtered through GF/F filter paper and the filter residue washed with MeOH (200 ml). The filtrates were concentrated to an off-white solid. The solid was slurried in IMS (75 ml) at 20° C. for 1.5 hr, filtered, and washed with IMS/heptane (1:2) (20 ml) and dried on the filter for 1 hr to afford (±)-2-methoxy-3-(4′-aminophenyl)-propionic acid as an off-white solid (5.1 g, 88% yield)

reactant | 2-Methoxy-3-(4-nitrophenyl)acrylic acid | 30 mmol, 6.7 g | COC(C(=O)O)=CC1=CC=C(C=C1)[N+](=O)[O-] | C10H9NO5
reactant | THF | 300 ml | C1CCOC1 | C4H8O
solvent | methanol | 700 ml | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | (±)-2-methoxy-3-(4′-aminophenyl)-propionic acid | 5.1 g, 88% yield | COC(C(=O)O)CC1=CC=C(C=C1)N | C10H13NO3
